US07109203B2
A stirred solution of 4-bromo-2-chloroaniline (3.99 g) in acetic acid (90 ml) at 15° C. is treated with concentrated hydrochloric acid (22 ml), followed by a solution of sodium nitrite (1.29 g) in water (4.5 ml) at 10° C. After 30 min, the mixture is added to a stirred solution of sulfur dioxide (32 g) and copper II chloride (1.3 g) in acetic acid (128 ml) and water (6.4 ml), also at 10° C. After stirring for a further 16 hours, the mixture is diluted with ice-cold water (500 ml) and extracted with ethyl acetate (4×100 ml). The combined extracts are washed successively with water (4×100 ml) and then brine, dried over magnesium sulfate, filtered and evaporated to give crude 2-chloro-4-bromobenzenesulfonyl chloride.

reactant | 4-bromo-2-chloroaniline | 3.99 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | hydrochloric acid | 22 ml | Cl | ClH
reactant | sodium nitrite | 1.29 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 32 g | S(=O)=O | O2S
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | water | 4.5 ml | O | H2O
solvent | acetic acid | 128 ml | C(C)(=O)O | C2H4O2
solvent | water | 6.4 ml | O | H2O
catalyst | copper | 1.3 g | [Cu] | Cu
product | 2-chloro-4-bromobenzenesulfonyl chloride | ClC1=C(C=CC(=C1)Br)S(=O)(=O)Cl | C6H3BrCl2O2S
